US09328118B2
1-Methylpiperazine (42 μL), N,N-diisopropylethylamine (66 μL), and (1-cyano-2-ethoxy-2-oxoethylidene aminooxy)dimethylamino-morpholino-carbenium hexafluorophosphate (187 mg) were added to a mixture of {2-cyano-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}acetic acid (100 mg) and DMF (4 mL) at room temperature, and the mixture was stirred at the same temperature for 2 hours. After water was added to the reaction mixture, the precipitate was collected by filtration, and washed with water. After the obtained solid was dissolved in CHCl3, the solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CHCl3:MeOH=100:0 to 50:50), whereby 4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (82 mg) was obtained as a white solid.

reactant | 1-Methylpiperazine | 42 μL | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylethylamine | 66 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1-cyano-2-ethoxy-2-oxoethylidene aminooxy)dimethylamino-morpholino-carbenium hexafluorophosphate | 187 mg | F[P-](F)(F)(F)(F)F.C(#N)C(C(=O)OCC)=NO[C+](N1CCOCC1)N(C)C
reactant | {2-cyano-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}acetic acid | 100 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)CC(=O)O)C2=CC(=C(C=C2)OCC)C(F)(F)F | C18H13F3N4O3
solvent | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 82 mg | C(C)OC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)CC(=O)N2CCN(CC2)C)C(F)(F)F | C23H23F3N6O2
